US04705807
(b) 3-Formyl-2-phenylbicyclo[2,2,2]oct-2-ene
3-Formyl-2-phenylbicyclo[2,2,2]octa-2,5-diene (3.7 g; 0.018 m) 5% Palladium on charcoal (0.3 g) and ethyl acetate (100 ml) were hydrogenated for 1 week. The catalyst was filtered off and the filtrate evaporated, then the residue distilled twice; Yield 1.9 g (51%) b.p. 160° C. at 0.2 mm/Hg.

reactant | 3-Formyl-2-phenylbicyclo[2,2,2]octa-2,5-diene | 3.7 g | C(=O)C1=C(C2C=CC1CC2)C2=CC=CC=C2 | C15H14O
catalyst | Palladium on charcoal | 0.3 g | [Pd] | Pd
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-Formyl-2-phenylbicyclo[2,2,2]oct-2-ene | C(=O)C1=C(C2CCC1CC2)C2=CC=CC=C2 | C15H16O
